US09102625B2
A solution of 4,6-dichloronicotinamide (400 mg, 2.09 mmol), 3-iodobenzylamine (0.285 mL, 2.13 mmol) and DIEA (0.500 mL, 2.87 mmol) in NMP (5 mL) was stirred at 90 C for 48 h. Water and EtOAc were added. Organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, eluted with 0-100% EtOAc in hexane to give 6-chloro-4-(3-iodobenzylamino)nicotinamide as a solid (266 mg).

reactant | 4,6-dichloronicotinamide | 2.09 mmol, 400 mg | ClC1=CC(=NC=C1C(=O)N)Cl | C6H4Cl2N2O
reactant | 3-iodobenzylamine | 2.13 mmol, 0.285 mL | IC=1C=C(CN)C=CC1 | C7H8IN
reactant | DIEA | 2.87 mmol, 0.500 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-chloro-4-(3-iodobenzylamino)nicotinamide | 266 mg | ClC1=NC=C(C(=O)N)C(=C1)NCC1=CC(=CC=C1)I | C13H11ClIN3O
